US04230707
Ethyl 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate
A mixture of ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate (2.0 g., 0.0072 mol) and N-chlorosuccinimide (0.97 g., 0.0072 mol) in pyridine (20 ml) is heated on a steam bath for 18 minutes. The reaction mixture is cooled and poured into a large volume of ice water. The precipitate is filtered, washed with water and dried. Recrystallization from ethanol gives the product (1.1 g.), mp 175°-176° C.

reactant | ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | 0.0072 mol, 2.0 g | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CSC2 | C13H12N2O3S
reactant | N-chlorosuccinimide | 0.0072 mol, 0.97 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 10-oxo-10H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | O=C1C=2C(N=C3N1C=C(C=C3)C(=O)OCC)=CSC2 | C13H10N2O3S
